US07034056B2
To an Argon-purged solution of 2-(4-bromophenyl)-pent-4-enoic acid (3,5-dichloro-phenyl)-amide (1.5 g, 3.7 mmol) in toluene/EtOH (2:1 v/v, 30 mL) was added 3-cyanophenylboronic acid (0.99 g, 6.7 mmol, 1.8 eq), Pd(PPh3)4 (160 mg, 0.44 mmol, 12%), and a solution of Na2CO3 (2.12 g, 20 mmol, 5.4 eq) in 10 mL of water. The reaction mixture was heated at 90° C. for 16 h. The mixture was partitioned between EtOAc (50 mL) and 10% NaHCO3 (50 mL) and the organic phase separated. The organic phase was washed with 10% NaHCO3 (30 mL) and saturated brine (30 mL), dried (Na2SO4), and concentrated. Chromatography on silica gel (20% EtOAc/hexanes) gave 2-(3′-cyano-biphenyl-4-yl)-pent-4-enoic acid (3,5-dichloro-phenyl)-amide as a yellow oil (685 mg, 44%). 1H NMR (300 MHz, CD3OD): δ 7.93 (m, 2H), 7.81 (m, 2H), 7.66 (m, 4H), 7.49 (m, 2H), 7.12 (t, 1H), 5.89 (m, 1H), 5.21 (m, 2H), 3.76 (t, 1H), 3.11 (m, 1H), 2.73 (m, 1H).

reactant | 2-(4-bromophenyl)-pent-4-enoic acid (3,5-dichloro-phenyl)-amide | 3.7 mmol, 1.5 g | ClC=1C=C(C=C(C1)Cl)NC(C(CC=C)C1=CC=C(C=C1)Br)=O | C17H14BrCl2NO
reactant | 3-cyanophenylboronic acid | 6.7 mmol, 0.99 g, 1.8 eq | C(#N)C=1C=C(C=CC1)B(O)O | C7H6BNO2
reactant | Na2CO3 | 20 mmol, 2.12 g, 5.4 eq | C(=O)([O-])[O-].[Na+].[Na+]
solvent | toluene EtOH | 30 mL | C1(=CC=CC=C1)C.CCO
solvent | water | 10 mL | O | H2O
catalyst | Pd(PPh3)4 | 0.44 mmol, 160 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(3′-cyano-biphenyl-4-yl)-pent-4-enoic acid (3,5-dichloro-phenyl)-amide | 685 mg, 44% | ClC=1C=C(C=C(C1)Cl)NC(C(CC=C)C1=CC=C(C=C1)C1=CC(=CC=C1)C#N)=O | C24H18Cl2N2O
